US08049006B2
3-amino-4-methylbenzenesulfonamide (Compound S58)
A solution of 4-methyl-3-nitrobenzenesulfonamide (2.1 g) and platinum oxide (210 mg) in methanol (50 ml) was stirred under hydrogen atmosphere at room temperature for 6 hours. The insoluble compound was filtered out, then the filtrate was concentrated. The residue was recrystallized from hexane/acetone to obtain the title compound (1.23 g).

reactant | 4-methyl-3-nitrobenzenesulfonamide | 2.1 g | CC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C7H8N2O4S
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum oxide | 210 mg | [Pt]=O
product | 3-amino-4-methylbenzenesulfonamide | 1.23 g | NC=1C=C(C=CC1C)S(=O)(=O)N | C7H10N2O2S
